US08461161B2
A mixture of (S)-3-amino-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-5-(trifluoromethyl)benzamide (38 mg, 0.09 mmol), 2-chloroethyl ether (0.012 mL, 0.1 mmol) and potassium carbonate (30 mg, 0.21 mmol) in N,N-dimethyl formamide (1 mL) was heated in a microwave reactor at 180° C. for 40 minutes. After this time the mixture was allowed to cool to room temperature and was filtered through cotton wool, diluted with ethyl acetate (15 mL), washed with saturated aqueous sodium hydrogen carbonate (2×10 mL), water (2×10 mL), brine (2×10 mL), dried (Na2SO4) and concentrated under reduced pressure to give a brown oil which was purified by flash chromatography (silica, ethyl acetate/methanol) followed by passage through a column of Sephadex with methanol as eluant to give the byproduct (S,Z)-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-((dimethylamino)methyleneamino)-5-(trifluoromethyl)benzamide (7 mg, 16%) as a yellow oil.

reactant | (S)-3-amino-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-5-(trifluoromethyl)benzamide | 0.09 mmol, 38 mg | NC=1C=C(C(=O)NC2=CC(=CC=C2)[C@H](C)NC2=NC(=CN=C2)Cl)C=C(C1)C(F)(F)F | C20H17ClF3N5O
reactant | 2-chloroethyl ether | 0.1 mmol, 0.012 mL | ClCCOCCCl | C4H8Cl2O
reactant | potassium carbonate | 0.21 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl formamide | 1 mL | CN(C=O)C | C3H7NO
product | (S,Z)-N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-((dimethylamino)methyleneamino)-5-(trifluoromethyl)benzamide | 7 mg, 16% | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(C1=CC(=CC(=C1)C(F)(F)F)\N=C/N(C)C)=O | C23H22ClF3N6O
